US05227452
A. Synthesis of 4,4'-Dinitrobenzanilide
4-Nitrobenzoyl chloride (111.34 grams, 0.60 mole), triethylamine (72.86 grams, 0.72 mole), 4-(N,N'-dimethylamino)pyridine (1.94 grams, 1.0% wt. of the 4-nitrobenzoyl chloride and 4-nitroaniline used) and tetrahydrofuran (250 milliliters) are added to a reactor and stirred under a nitrogen atmosphere with cooling to provide a 5° C. solution. Dropwise addition of a solution of 4-nitroaniline (82.88 grams, 0.60 mole) in tetrahydrofuran (400 milliliters) commenced and is completed over the next 30 minutes while maintaining a reaction temperature of 5° C. to 8° C. After completion of addition of the 4-nitroaniline and tetrahydrofuran solution the reaction temperature is allowed to increase to room temperature (24° C.) over a 106 minute period. After the reaction is held at room temperature for two hours, the reactor contents are added to deionized water (1.5 gallons). The resultant precipitated product is recovered by filtration then washed with deionized water (500 milliliters). The wet filter cake is added to acetone (500 milliliters) and heated to boiling with stirring. The acetone suspension is held at 2° C. overnight followed by filtration to recover the crystalline precipitate. The recovered filter cake is dried in a vacuum oven at 110° C. and 5 mm Hg to a constant weight of 84.7 grams. The product is light yellow in color with a brilliant appearance. Additional solids precipitated from the acetone mother liquor from the initial filtration upon concentration by rotary evaporation, but no attempt is made to recover and process this material. Fourier transform infrared spectrophotometric analysis of a nujol mull of the product on a sodium chloride plate confirms the product structure (1538 and 1336 cm-1 absorbances observed for the conjugated nitro group, secondary amide N--H stretching (solid state) absorbance observed at 3368 cm-1, and secondary amide carbonyl stretching (solid state) absorbance observed at 1686 cm-1). Proton nuclear magnetic resonance spectroscopy further confirms the product structure.

reactant | 4-Nitrobenzoyl chloride | 0.60 mole, 111.34 grams | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | triethylamine | 0.72 mole, 72.86 grams | C(C)N(CC)CC | C6H15N
reactant | 4-nitroaniline | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | 4-nitroaniline | 0.60 mole, 82.88 grams | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | water | 1.5 gallons | O | H2O
catalyst | 4-(N,N'-dimethylamino)pyridine | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | tetrahydrofuran | 400 milliliters | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 milliliters | O1CCCC1 | C4H8O
product | 4,4'-Dinitrobenzanilide | [N+](=O)([O-])C1=CC=C(C(=O)NC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C13H9N3O5
